US03998966
To a mixture of 18 g. of methyl phenylacetate, 26 g. of aluminum chloride and 150 ml. of carbon disulfide, 20 g. of succinic anhydride are added. The reaction mixture is allowed to stand for two hours at 35°C; then it is added to a liter of ice water and extracted with methylene chloride. The extracts are combined, washed, dried, and evaporated to give methyl p-(3'-carboxy-1'-oxopropyl)-phenylacetate. This derivative is reduced with sodium borohydride and dehydroxylated with palladium charcoal catalyst by the procedures described in Part A of Example 2 to afford methyl p-(3'-carboxypropyl)-phenylacetate. This derivative is refluxed in 50 ml. of thionyl chloride for three hours and then it is evaporated. The residue, containing methyl p-(3'-chlorocarbonylpropyl)-phenylacetate, is taken up in ml. of benzene containing 40 g. of aluminum chloride, The resulting mixture is stirred for two hours at 20° C; then it is added to a liter of ice and water and extracted with methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, and evaporated to give 7-(methoxycarbonylmethyl)-1-tetralone.

reactant | methyl phenylacetate | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | carbon disulfide | C(=S)=S | CS2
product | methyl p-(3'-carboxy-1'-oxopropyl)-phenylacetate | C(=O)(O)CCC(=O)C1=CC=C(C=C1)CC(=O)OC | C13H14O5
